US06291130B1
Synthesis of Cedrol acrylate (b5):
In 200 ml of tetrahydrofuran, 25 g of (+)-Cedrol (manufactured by Lancaster) was dissolved, and to the solution were added 22.8 g of triethylamine and 1 g of N,N-dimethylaminopyridine. To the solution was dropwise added 15.2 g of acrylic chloride under cooling with ice over a period of 30 minutes and the mixture was stirred at room temperature for 2 days. To the reaction solution was added 100 ml of distilled water under cooling with ice, and the mixture was stirred for 30 minutes and 300 ml of ethyl acetate was added thereto. The water layer was removed by separation and the organic layer was washed with water, dried and concentrated to obtain a crude product. The crude product was purified by column chromatography to obtain 18.2 g of the desired compound which is a raw material monomer for repeating unit (b5).

reactant | (+)-Cedrol | 25 g | C[C@@H]1CC[C@@H]2[C@]13CC[C@@]([C@H](C3)C2(C)C)(C)O | C15H26O
reactant | triethylamine | 22.8 g | C(C)N(CC)CC | C6H15N
reactant | acrylic chloride | 15.2 g | C(C=C)(=O)Cl | C3H3ClO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Cedrol acrylate | 18.2 g | C[C@@H]1CC[C@@H]2[C@]13CC[C@@]([C@H](C3)C2(C)C)(C)O.C(C=C)(=O)[O-] | InChI=1S/C15H26O.C3H4O2/c1-10-5-6-11-13(2,3)12-9-15(10,11)8-7-14(12,4)16;1-2-3(4)5/h10-12,16H,5-9H2,1-4H3;2H,1H2,(H,4,5)/p-1/t10-,11+,12-,14-,15+;/m1./s1
